Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
lab abnormalities ___, hyperkalemia, hyperuricemia)
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with CML s/p sibling allo D0 ___, complicated by GI 
GVHD, liver GVHD, GVHD related myopathy, who presented from ___ 
clinic for lab abnormalities including hyperkalemia (5.4), 
elevated uric acid (11.5) and acute renal failure (2.3). 

Per report, she had a few day history of poor oral intake with 
suspected dehydration. They did not give IV fluid due to a 
history of recent ?NSTEMI and sysolic CHF with EF of 40%.

Of note, her history is extensive and discharge summary from 
___ reviewed.

Currently, she reports: feeling okay. She notes a cough which 
has improved from discharge. No sputum production. She has 
continued chronic weakness and myalgias upon standing. She 
doesn't note recent bleeding. She states her legs often swell up 
("they come and go"). She denies any calf pain or worsening 
shortness of breath. She notes okay PO intake (per her report, 
other history indicates poor PO intake). She notes she vomiting 
2 days ago but has not since had nausea or vomiting. No diarrhea 
or constipation.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: Bone marrow biopsy showed myeloproliferative 
disorder, likely chronic myelogenous leukemia. Per patient 
report, began taking interferon three times weekly shortly after 
diagnosis.  
- ___: Started Gleevec 400 mg daily. At some point 
thereafter, her dose was increased to 600 mg daily  
- ___: Gleevec increased to 400 mg twice daily with 
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be 
in late chronic phase CML. Stem cell transplant was recommended, 
but she did not wish to pursue this course.  
- ___: Gleevec held due to worsening anemia and 
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on 
Dasatinib  
- ___: First seen at ___. Bone marrow biopsy showed 
accelerated phase CML, began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by 
mucositis with biopsy of the esophagus suggesting upper GI GVHD 
which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper  
and lower GI tract in the setting of reducing immunosuppression  

- ___ Started on ponatinib 45 mg PO due to evidence of 
disease  
- ___ admitted to the hospital for fatigue and diarrhea, 
renal biopsy showed microangiopathic disease, glomerular 
sclerosing and fibrosis of kidney and GI biopsy showed shallow 
crypts that are  
typically seen with GVHD or cellcept toxicity. Her ponatinib was 
discontinued and prendisone and Cellcept doses were decreased.  
- ___ admitted for nausea, diarrhea, poor PO intake and 
weight loss. Had flex sig and EGD with biopsy negative for GVHD. 
Diarrhea resolved, stool cultures negative. ___ resolved w/ IVF. 
CT sinus had inflammation, given course of levofloxacin. Gastric 
emptying study inconclusive. BCR/ABL gene rearrangment elevated 
from previous undected level to 2.013%, mycophenylate was 
stopped.  

PAST MEDICAL/SURGICAL HISTORY:  
- CAD s/p CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  
 
Social History:
___
Family History:
Father - died of MI, no other health problems  
Mother - had heart problems, DM  
No family history of cancer or blood disorders.  

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
VITALS: 98.1, 158/80, 82, 18, 99% RA
General: No apparent distress, appears chronically ill
HEENT: OP without lesions, ?moon fascies
CV: rr, nl rate, flow murmur - systolic 
Lungs: CTAB anterior and lateral exam
Abdomen: soft, nontender, nondistended
Skin: thin, multiple ecchymoses, no active bleeding
GU: no foley
Ext: bilateral lower extremity edema, L>R ___ to waist 
Neuro: diffuse weakness, CN grossly intact
Psych: pleasant

PHYSICAL EXAM ON DISCHARGE:
Vitals: 98.5 118/66 90 20 96% 
Gen: NAD, A&Ox3, appropriate affect, coughs during the interview
Skin: multiple bruises on Lt face, anterior chest and neck line 
- overall improving and decrease in size. significant bruising 
in the ___. Overall improving.  
Lungs: CTAB, no w/c/r
CV: RRR, +S1/S2
Abd: soft, NT, ND, +BSx4, large echymosis in the lower abd ___ 
heparin SC - stable 
Ext: 2+ edema up to knees Lt>Rt, improved significantly, 4cm 
laceration in the Lt anterior thigh (from muscle biopsy), 
dressing c/i/d 
Neuro: antigravity in all extremities, CNII-XII itnact 

 
Pertinent Results:
LABS ON ADMISSION:
___ 10:00PM   GLUCOSE-99 UREA N-50* CREAT-2.2* SODIUM-138 
POTASSIUM-5.3* CHLORIDE-106 TOTAL CO2-23 ANION GAP-14
___ 10:00PM   ALT(SGPT)-20 AST(SGOT)-25 LD(LDH)-268* ALK 
PHOS-132* TOT BILI-0.4
___ 10:00PM   CK-MB-12* cTropnT-0.98*
___ 10:00PM   ALBUMIN-3.0* CALCIUM-8.8 PHOSPHATE-4.9* 
MAGNESIUM-1.8 URIC ACID-11.3*
___ 10:00PM   WBC-4.6 RBC-2.54* HGB-7.5* HCT-23* MCV-93 
MCH-29.6 MCHC-31.7 RDW-18.3*
___ 10:00PM   NEUTS-92* BANDS-0 LYMPHS-4* MONOS-3 EOS-1 
BASOS-0 ___ MYELOS-0
___ 10:00PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-OCCASIONAL 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-OCCASIONAL
___ 10:00PM   PLT SMR-LOW PLT COUNT-116*
___ 10:00PM   ___ PTT-26.3 ___
___ 10:00PM   ___
___ 01:15PM   GLUCOSE-118*
___ 01:15PM   UREA N-51* CREAT-2.3* SODIUM-136 
POTASSIUM-5.4* CHLORIDE-103 TOTAL CO2-22 ANION GAP-16
___ 01:15PM   estGFR-Using this
___ 01:15PM   ALT(SGPT)-25 AST(SGOT)-31 LD(LDH)-334* ALK 
PHOS-164* TOT BILI-0.5
___ 01:15PM   TOT PROT-5.5* ALBUMIN-3.4* GLOBULIN-2.1 
CALCIUM-9.4 PHOSPHATE-4.5 MAGNESIUM-1.8 URIC ACID-11.3*
___ 01:15PM   WBC-9.1# RBC-3.13* HGB-9.6* HCT-29.0* MCV-93 
MCH-30.6 MCHC-33.0 RDW-17.9*
___ 01:15PM   NEUTS-92.8* LYMPHS-2.6* MONOS-2.1 EOS-2.0 
BASOS-0.6
___ 01:15PM   PLT COUNT-148*

RELEVANT LABS:
___ 12:15AM BLOOD ___
___ 12:23AM BLOOD Hapto-163
___ 12:23AM BLOOD IgG-455*
___ 12:23AM BLOOD ___
___ 04:39AM BLOOD FacVIII-264*
___ 04:39AM BLOOD VWF AG-281* VWF ___
___ 05:11AM BLOOD ACA IgG-2.2 ACA IgM-4.9
___ 12:23AM BLOOD Hapto-163
___ 12:23AM BLOOD IgG-455*

MICROBIOLOGY:
B-GLUCAN on ___: >500
B-GLUCAN on ___: <31
Galactomannan: not detected 
BLOOD CULTURES ___ X2: NO GROWTH
CMV VIRAL LOAD: NONE DETECTED 

IMAGING:
___ ___:
1.  Left common femoral and proximal left femoral vein partially 
occlusive thrombus has decreased in size compared to the 
___ study.  
2.  The previously-seen clot in the proximal right femoral vein 
has resolved.  There is no DVT in the right lower extremity. 

___ ___:
1.  No significant overall change in chronic appearing thrombus 
within the left common femoral vein and upper portions of both 
the superficial and profunda femoris veins.  
2.  Apparent duplication along the midportion of the superficial 
femoral vein versus a prominent collateral vein, with partially 
occlusive thrombus in the deeper of the two vessels, this vessel 
was not well visualized on the prior study.   

CT-CHEST ___:
1.  The ground-glass opacities described in ___ have 
resolved.   
There are no signs of active infection.   
2. Parenchymal scarring at the lung bases is unchanged since 
___.  
3.  Severe coronary artery disease, aortic valve calcification, 
aortic annulus calcification, pericardial calcification with 
mild cardiomegaly are unchanged since ___. 
4.  Stable mild osteopenia. 

TTE ___:
Left ventricular wall thicknesses and cavity size are normal. 
There is mild regional left ventricular systolic dysfunction 
with mild hypokinesis of the basal to mid septum. The remaining 
segments contract normally. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets are 
mildly thickened (?#). No aortic stenosis or regurgitation are 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Trivial mitral regurgitation is seen. 
There is no pericardial effusion. 

US of nodule in Lt lower medial leg ___: Superficial hematoma 
of the left medial calf. 

V/Q scan ___: 
Matched defect in the posterior segment of the left upper lobe 
and 
posterior-basal segment of the left lower lobe, with no 
correlate seen on chest CT. Low likelihood of pulmonary 
embolism.  

CT chest ___:
1.  All lung nodules are stable since ___, not 
concerning for malignancy.  There are no signs of active 
infection. 
2.  Stable severe coronary, aortic valve, aortic annulus and 
pericardial calcification with mild enlargement of the left 
ventricle. 

CT sinuses ___:
Continued mild mucosal thickening of the maxillary sinuses, left 
greater than right.  Decreased opacification of the right 
sphenoid sinus from ___. 

DISCHARGE LABS:
___ 11:00PM BLOOD WBC-5.4# RBC-3.11*# Hgb-9.5*# Hct-29.0*# 
MCV-93 MCH-30.7 MCHC-32.9 RDW-18.6* Plt ___
___ 11:00PM BLOOD Neuts-86.2* Lymphs-7.4* Monos-2.7 Eos-0.8 
Baso-0.3
___ 05:11AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-2+ 
Macrocy-2+ Microcy-1+ Polychr-NORMAL Ovalocy-2+ 
Schisto-OCCASIONAL
___ 11:00PM BLOOD ___ PTT-32.9 ___
___ 12:23AM BLOOD ___
___ 11:00PM BLOOD Glucose-100 UreaN-36* Creat-2.2* Na-135 
K-4.9 Cl-100 HCO3-22 AnGap-18
___ 12:00AM BLOOD ALT-23 AST-20 LD(LDH)-244 AlkPhos-218* 
TotBili-0.4
___ 11:00PM BLOOD Calcium-9.1 Phos-4.5 Mg-2.___ with CML s/p sibling allo D0 ___, complicated by GI 
GVHD, liver GVHD, GVHD related myopathy, who presented from ___ 
clinic for lab abnormalities including hyperkalemia (5.4), 
elevated uric acid (11.5) and acute renal failure (2.3) and was 
found to have a DVT in left ___.  

#DVT in Lt ___: Based on ___ done on ___, DVT seems to be 
chronic and decreasing in size. Based on repeat ___ on ___, 
there is evidence of a new DVT in Lt superficial femoral vein 
that was not visualized on previous study. On presentation, pt 
had scute worsening of ___ edema, prompting us to do further 
imaging. Pt was initially started on heparin gtt with goal PTT 
50-80. However, given high risk of bleeding and current severe 
bruising, we transitioned to heparin SC 12500U BID. We will 
discharge pt on heparin SC 12500U BID for ___ months in 
discretion of outpatient oncologist, Dr. ___. 
- continue heparin SC 12500U BID for ___ months
- hold aspirin 81mg 

#chronic kidney failure: Cr 2.2 on discharge; baseline 1.5-2.0. 
Creatinine ranged 1.8-2.3 during hospitalization. Most likely 
prerenal in the setting of poor po intake; however, elevated 
uric acid may be contributing as well. 
. Throughout hospitalization, she received 1L of fluid and only 
upon admission. We encouraged oral intake and pt was compliant 
with plan. Given history of chronic kidney diseae and 
microangiopathic injury, small daily changes in the Cr are not 
clinically significant. ___ on presentation most likely prerenal 
given improvement with hydration. Based on renal biopsy done in 
___, there is thrombotic microangiopathic injury and severe 
intersitial fibrosis and tubular atrophy. These changes may be 
due to TKI. We held lasix and discontinued it on discharge. 
Resuming lasix will be in discretion of PCP ___ Dr. ___. 
Please encourage oral intake. Please renally dose all 
medications and monitor pt's I/O's and weight. If Cr. rises, pt 
can be given IVF conservatively since new TTE showed EF 55%.  

#CML: Progression of pt's CML was not addressed during this 
hospitalization. This will be assessed as outpatient with Dr. 
___. Last BCR/AML checked on ___ and increasing. Pt p/w 
hyperuricemia and thrombocytopenia, which may be indicating 
changes in leukemia and rapid cell turn over. We tapered 
prednisone by 1mg every other day and stopped at 10mg daily. 
This is the dose we recommend on discharge. Changes can be made 
in discretion of Dr. ___. 

#Hyperuricemia: Urice acid on presentation 11.4. Pt was treated 
with one dose of rasburicase 6mg IV and was further placed on 
allopurinol ___ daily. However, repeat urice acid on ___ was 
8.7. Given that pt has CKD and is already on optimal dose of 
allopurinol ___ daily. We added Febuxostat 40 mg PO daily on 
___ and recommend continuing allopurinol for one week after 
discharge, last dose on ___. 
The exact cause of elevated uric acid is unknown. It may be due 
to rapid cell turnover and changes in CML. Pt will be follow up 
with Dr. ___ further assessment. We recommend checking 
uric acid level in one week. Elevated uric acid may be 
contributing to poor kidney function. 

#Thrombocytopenia: Plt count fluctuated through hospital course. 
This (in addition to hyperuricemia) may present rapid cell 
turnover and changes in leukemia. We discontinued aspirin on 
discharge and held it throughout hospitalization. We recommend 
monitoring plt count as outpatient. 

#Myopathy: Muscle biopsy official report showed no evidence of 
myositit but abnormal muscle fibers. Exact etiology is unclear 
but GVHD and possibly steroids likely. We tapered steroids and 
discharged pt on prednisone 10mg daily.  

#Cough: Most likely viral and post-infectious. Improving but 
intermittent in nature. It has been going on for a few weeks and 
since last admission. CT chest/sinuses negative for any acute 
infectious processes. CT-chest (done twice on ___ and ___ 
showed improvement of opacities observed in ___. Pulmonary 
was consulted and concluded no indication for bronchoscopy given 
improvement in imaging. They concluded post-infectious cough as 
most likely etiology and recommended atroven neb. Given the 
setting of new DVT, there was concern for PE. Pt was tachycardic 
but no dyspnea or pleuritic chest pain. V/Q was negative for PE 
on ___. B-glucan was positive on ___ but repeat on ___ was 
negative. Galactomannan was negative. 

#CAD s/p CABG: History of NSTEMI on last admission is 
questionable since pt only had a trop leak but no EKG changes or 
chest pain. TTE done on ___ showed improved EF 55% (compared to 
40% on last admission). Trops are elevated but seem to be 
chronic and due to CKD. EKG with no acute ischemic changes. We 
held ASA during hospitalization and discontinued on discharge 
since pt is on heparin, she presented with severe bruising, and 
she continued have thrombocytopenia. 

#Hypertension: We continued metoprolol 250mg and amlodipine 5mg. 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation Inhalation 1 puff TID prn 
SOB, wheezing 
2. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Magnesium Oxide 400 mg PO BID 
5. Fluconazole 200 mg PO Q24H 
6. PredniSONE 15 mg PO 3X/WEEK (___) 
7. PredniSONE 20 mg PO 4X/WEEK (___) 
8. Amlodipine 5 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Atovaquone Suspension 1500 mg PO DAILY 
11. Calcium Carbonate 500 mg PO BID 
12. Furosemide 20 mg PO DAILY 
13. Acyclovir 400 mg PO Q12H 
14. Metoprolol Succinate XL 250 mg PO DAILY 
15. Benzonatate 100 mg PO TID:PRN Cough 
16. Guaifenesin ___ mL PO Q6H:PRN cough 
17. Heparin 5000 UNIT SC TID 
18. Miconazole Powder 2% 1 Appl TP TID:PRN Breast Discomfort 
19. Pantoprazole 40 mg PO Q12H 
20. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Amlodipine 5 mg PO DAILY 
3. Atovaquone Suspension 1500 mg PO DAILY 
4. Benzonatate 100 mg PO TID:PRN Cough 
5. Calcium Carbonate 500 mg PO BID 
6. Fluconazole 200 mg PO Q24H 
7. Heparin 12,500 UNIT SC BID 
8. Metoprolol Succinate XL 250 mg PO DAILY 
9. Miconazole Powder 2% 1 Appl TP TID:PRN Breast Discomfort 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
13. Magnesium Oxide 400 mg PO BID 
14. Guaifenesin ___ mL PO Q6H:PRN cough 
15. albuterol sulfate 90 mcg/actuation Inhalation 1 puff TID prn 
SOB, wheezing 
16. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
pls hold for lethargy or RR<12. 
17. PredniSONE 10 mg PO DAILY 
18. Allopurinol ___ mg PO DAILY 
Discontinue taking this medication on ___.  
19. Febuxostat 40 mg PO DAILY 
20. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN cough 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
ACUTE DIAGNOSES:
1. Acute Kidney Injury
2. DVT
3. Hyperuricemia 

CHRONIC DIAGNOSES: 
1. CML
2. Coronary artery disease 
3. Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at the ___ 
___. 

You presented to us with laboratory abnormalities most likely 
due to acute kidney injury and dehydration. We treated you with 
IV fluids and following adequate hydration, these laboratory 
abnormalities resolved and your kidney function improved. In 
addition, your uric acid was very high on admission and you were 
given medications to lower the level since it can cause damage 
to your kidneys. You are being discharged on new medications, 
called allopurinol and febuxostat to maintain low uric acid 
levels. Allopurinol will be discontinued in one week, ___. It 
is important to mention that given your history of chronic 
kidney disease, small daily changes in your kidney function are 
not of clinical significance and can be managed by IV fluids. We 
encourage you to drink plenty of water everyday. 

You were also found to have a blood clot in your left leg. You 
are being treated with heparin injections twice a day. We also 
lowered your steroid dosage gradually and stopped at prednisone 
10mg daily. 

Please take your medications as instructed. Please attend all 
your follow up appointments. Please follow up with Dr. ___ in 
clinic on ___ as scheduled. 
 
Followup Instructions:
___